US04723016
Perfluoroisobutyryl fluoride (17.76 g, 82 mmol) was distilled into a 3-neck flask (equipped with a cold finger condenser, mechanical stirrer and a nitrogen inlet) containing a slurry of potassium trimethylsilanolate (10.26 g, 80 mmol) in dry ether (500 mL). The mixture was stirred 3 h at room temperature with the condenser maintained at -40°; then it was cooled to -40° and stirred overnight. The solid was filtered under nitrogen, washed with dry ether, and dried under a stream of nitrogen to afford potassium perfluoroisobutyrate (12.29 g, 61% yield) as a white solid: 19F NMR (D2O) δ -72.2 (d, J=7.5 Hz, CF3, 6F), -171.8 ppm (sp, J=7.5 Hz, CF, 1F). Anal. Calcd. for C4F7KO2 : C, 19.05; F, 52.75. Found: C, 19.12; F, 52.70.

reactant | Perfluoroisobutyryl fluoride | 82 mmol, 17.76 g | FC(C(=O)F)(C(F)(F)F)C(F)(F)F | C4F8O
reactant | potassium trimethylsilanolate | 80 mmol, 10.26 g | C[Si]([O-])(C)C.[K+]
solvent | ether | 500 mL | CCOCC | C4H10O
product | potassium perfluoroisobutyrate | 12.29 g, 61% yield | FC(C(=O)[O-])(C(F)(F)F)C(F)(F)F.[K+] | InChI=1S/C4HF7O2.K/c5-2(1(12)13,3(6,7)8)4(9,10)11;/h(H,12,13);/q;+1/p-1
